US06451814B1
4-[4-(2-{[(2S)-3-(2-Chloro-4-hydroxyphenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-octyl-1-piperidinecarboxamide
4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide formate (0.57 g, 1.35 mmol) was reacted with tert-butyl(diphenyl)silyl 3-chloro-4-[(2S)oxiranyl-methoxy]phenyl ether (0.59 g, 1.35 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.185 g, 0.23 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide formate | 1.35 mmol, 0.57 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCCCCCCC)C=C1
reactant | tert-butyl(diphenyl)silyl 3-chloro-4-[(2S)oxiranyl-methoxy]phenyl ether | 1.35 mmol, 0.59 g | ClC=1C=C(C=CC1OC[C@H]1OC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H27ClO3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-[4-(2-{[(2S)-3-(2-Chloro-4-hydroxyphenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-octyl-1-piperidinecarboxamide | 0.23 mmol, 0.185 g | ClC1=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCCCCCCCC)C=C2)O)C=CC(=C1)O | C31H47ClN4O4
